US07244473B2
According to the well known Diels-Alder Reaction, using isoprene and acrolein as raw materials, 4-methyl-3-cyclohexenyl aldehyde was synthesized. The reaction was conducted under the conditions described in the literary documents of J. Amer, Chem. Soc., 119, 15, 1997, 3507–3512; and Tetrahedron Lett., 40, 32, 1999, 5817–5822. Subsequently, the compound was reduced to obtain 4-methyl-3-cyclohexenylmethanol at a high yield.

reactant | isoprene | C=CC(C)=C | C5H8
reactant | acrolein | C(=O)C=C | C3H4O
product | 4-methyl-3-cyclohexenylmethanol | CC1=CCC(CC1)CO | C8H14O
